US07615642B2
Step C. 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}pyrrolidine-3-carboxylic acid
NaOH (2 mL, 2 M, 4.0 mmol) was added to a solution of methyl 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}pyrrolidine-3-carboxylate (570 mg, 1.22 mmol) in a 1:1 mixture of MeOH:H2O (30 mL) at ambient temperature. The reaction mixture was stirred overnight and diluted with water (100 mL). The solvent was concentrated to 100 mL. The resulting solution was neutralized with HCl solution, the product was extracted with EtOAc and dried over anhydrous Na2SO4. The solvent was concentrated to provide the title compound as white solid. Yield: 480 mg (87%); MS (ESI) (M+H)+=450.1.

reactant | NaOH | 4.0 mmol, 2 M, 2 mL | [OH-].[Na+]
reactant | methyl 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}pyrrolidine-3-carboxylate | 1.22 mmol, 570 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2CC(CC2)C(=O)OC | C23H33N3O5S
reactant | MeOH | CO | CH4O
solvent | water | 100 mL | O | H2O
solvent | H2O | 30 mL | O | H2O
product | 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}pyrrolidine-3-carboxylic acid | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2CC(CC2)C(=O)O | C22H31N3O5S
